US06329389B1
6-Chloro-N,N-dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide
6-Chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid (3.00 g), dimethylamine hydrochloride (1.332 g), HOBt (2.042 g), WSC (3.093 g) and triethylamine (4.5 ml) were added to acetonitrile (150 ml). The reaction mixture was stirred at room temperature for 18 hours. 10% Aqueous citric acid solution was added to the reaction mixture. The precipitated pellets were collected by filtration and washed with water and IPE to obtain the entitled compound (1.276 g).

reactant | 6-Chloro-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxylic acid | 3.00 g | ClC=1C=C2CC(C(NC2=CC1)=O)C(=O)O | C10H8ClNO3
reactant | dimethylamine hydrochloride | 1.332 g | Cl.CNC
reactant | HOBt | 2.042 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 3.093 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
solvent | triethylamine | 4.5 ml | C(C)N(CC)CC | C6H15N
product | 6-Chloro-N,N-dimethyl-2-oxo-1,2,3,4-tetrahydro-3-quinolinecarboxamide | 1.276 g | ClC=1C=C2CC(C(NC2=CC1)=O)C(=O)N(C)C | C12H13ClN2O2
